US06245790B1
A mixture of (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2- cyclohexen-1-yl]methyl}benzoic acid (0.1 g) and 10% Pd/C (0.1 g) in methanol (20 ml) was stirred under H2 for 8 hours. The catalyst was filtered off and filtrate was evaporated in vacuo to give 3-{[(lS)-2-(4,5-diphenyloxazol-2-yl)-1- cyclohexyl]methyl}benzoic acid (0.1 g).

reactant | (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2- cyclohexen-1-yl]methyl}benzoic acid | 0.1 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC=1C=C(C(=O)O)C=CC1 | C29H25NO3
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 3-{[(lS)-2-(4,5-diphenyloxazol-2-yl)-1- cyclohexyl]methyl}benzoic acid | 0.1 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1[C@@H](CCCC1)CC=1C=C(C(=O)O)C=CC1 | C29H27NO3
